US09108966B2
To a solution of tert-butyl 2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinecarboxylate (0.78 g, 2.0 mmol) in dioxane (10 mL) was added 4M HCl in dioxane (5 mL) at 0° C. The reaction mixture was stirred at rt for 1 h, then, Et2O (10 mL) was added. The solid precipitation was collected by filtration, washed with Et2O (2×), and dried under vacuum to provide (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbohydrazide hydrochloride (0.65 g, 99%), which was used directly in the next step. ESI-MS (EI+, m/z): 291.19 [M+H]+.

reactant | tert-butyl 2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinecarboxylate | 2.0 mmol, 0.78 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(=O)OC(C)(C)C | C19H26N4O5
reactant | HCl | 4M | Cl | ClH
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbohydrazide hydrochloride | 0.65 g, 99% | Cl.C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NN | InChI=1S/C14H18N4O3.ClH/c15-16-13(19)12-7-6-11-8-17(12)14(20)18(11)21-9-10-4-2-1-3-5-10;/h1-5,11-12H,6-9,15H2,(H,16,19);1H/t11-,12+;/m1./s1
